US07442791B2
A solution of 0.50 g (1.52 mmol) of trans-4-{[(5-bromo-pyrimidin-2-yl)-methyl-amino]-methyl}-cyclohexanecarboxylic acid in 4.5 mL of CH2Cl2 was treated at RT with 1 drop of DMF followed by 0.14 mL (1.68 mmol, 1.1 eq) of oxalyl chloride within 5 min, and stirring was continued for 90 min. The solution was evaporated, the residue was redissolved in CH2Cl2 and added dropwise to a solution of 2.14 mL (30.47 mmol, 20 eq) of cyclopropylamine in 3 mL of CH2Cl2 at 0° C. The reaction was warmed to RT and left for 3 h, then partitioned between Et2O (×3)/aqueous 10% NaHCO3, washed once with aqueous 10% NaHCO3, dried over Na2SO4 and evaporated to yield 0.55g (99%) of trans-4-{[(5-bromo-pyrimidin-2-yl)-methyl-amino]-methyl}-cyclohexanecarboxylic acid cyclopropylamide, MS: 367 (MH+, 1Br).

reactant | trans-4-{[(5-bromo-pyrimidin-2-yl)-methyl-amino]-methyl}-cyclohexanecarboxylic acid | 1.52 mmol, 0.50 g | BrC=1C=NC(=NC1)N(C)C[C@@H]1CC[C@H](CC1)C(=O)O | C13H18BrN3O2
reactant | oxalyl chloride | 1.68 mmol, 0.14 mL, 1.1 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | cyclopropylamine | 30.47 mmol, 2.14 mL, 20 eq | C1(CC1)N | C3H7N
solvent | CH2Cl2 | 4.5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | trans-4-{[(5-bromo-pyrimidin-2-yl)-methyl-amino]-methyl}-cyclohexanecarboxylic acid cyclopropylamide | 0.55g, 99% | C1(CC1)NC(=O)[C@@H]1CC[C@H](CC1)CN(C)C1=NC=C(C=N1)Br | C16H23BrN4O
